US08026237B2
Preparation of 3,5-dimethyl-4-(2-trifluoromethyl-phenyl)-1H-pyrrole-2-carboxylic acid ethyl ester
To a solution of ethyl 4-bromo-3,5-dimethyl-1H-pyrrole-2-carboxylate (2.4 g, 10 mmol) in DMF (25 mL) was added tetrakis(triphenylphosphine)palladium (2.3 g, 1 mmol). After stirring 15 min, the reaction mixture was charged with 2-(trifluoromethyl)-benzeneboronic acid (2.4 g, 12.5 mmol) and sodium carbonate (in 5 mL of water). The reaction mixture was heated to reflux overnight with stirring. After cooling, the reaction mixture was then diluted with water and extracted with DCM. The combined extracts were washed with water and dried over Na2SO4. Evaporation of solvent gave a crude material, which was purified by chromatography on silica gel column eluting with EtOAc-hexane (1:1) to give the title compound (1.5 g). MS (ES): 312 (MH+)

reactant | ethyl 4-bromo-3,5-dimethyl-1H-pyrrole-2-carboxylate | 10 mmol, 2.4 g | BrC=1C(=C(NC1C)C(=O)OCC)C | C9H12BrNO2
reactant | 2-(trifluoromethyl)-benzeneboronic acid | 12.5 mmol, 2.4 g | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 1 mmol, 2.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3,5-dimethyl-4-(2-trifluoromethyl-phenyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 1.5 g | C(C)OC(=O)C=1NC(=C(C1C)C1=C(C=CC=C1)C(F)(F)F)C | C16H16F3NO2
